US07662809B2
Step 4: 3-[2-{2-[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]1propanoic Acid
1.1 eq of lithium hydroxide monohydrate was added to a solution of methyl 2-{2-[(tert-butoxycarbonyl) amino]phenyl}-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate in a mixture THF:H2O (4:1; 0.1 M). The mixture was stirred at RT for 1.5 h. The reaction was quenched with 1 N HCl and the solvent evaporated in vacuo. The residue was washed with the minimum amount of Et2O and the resultant precipitate filtered to obtain the title compound as a white solid (81%); MS (ES+) m/z 521 (M+H)+.

reactant | lithium hydroxide monohydrate | 1.1 eq | O.[OH-].[Li+]
reactant | methyl 2-{2-[(tert-butoxycarbonyl) amino]phenyl}-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)OC | C31H38N2O6
solvent | THF H2O | 0.1 M | C1CCOC1.O
product | 3-[2-{2-[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]1propanoic Acid | 81% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)O | C30H36N2O6
